US05977170
A solution of methyl 3-benzoylpropionate ethylene ketal (7.9661 g, 33.7 mmol), prepared in the previous step in 150 ml of anhydrous THF was added under nitrogen dropwise over 1 hour to a suspension of LAH (1.6656 g, 43.9 mmol) in 75 ml of anhydrous THF. After the addition the mixture was stirred at room temperature for 19 hours. Water (1.7 ml) was then added dropwise followed by the addition of 1.7 ml of 15% KOH and then 5.1 ml of water. The resulting mixture was stirred for 15 minutes and then filtered. The filtrate was concentrated under reduced pressure to remove most of the THF. The residue was partitioned between methylene chloride-water. The organic layer was separated and the aqueous layer extracted two times with methylene chloride. The combined organic extracts were dried (MgSO4) and the solvent removed under reduced pressure to give 4-hydroxybutyrophenone ethylene ketal (6.51 g, 93%) as a white solid, mp 39-42° C.

reactant | methyl 3-benzoylpropionate ethylene ketal | 33.7 mmol, 7.9661 g | C1COC(CCC(C2=CC=CC=C2)=O)(OC)O1 | C13H16O4
reactant | LAH | 43.9 mmol, 1.6656 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 1.7 ml | O | H2O
reactant | KOH | 1.7 ml | [OH-].[K+]
reactant | water | 5.1 ml | O | H2O
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 75 ml | C1CCOC1 | C4H8O
product | 4-hydroxybutyrophenone ethylene ketal | 6.51 g, 93% | C1COC(CCCO)(C2=CC=CC=C2)O1 | C12H16O3
